US06777432B1
[5-(4-fluoro-phenylcarbamoyl)-pyridin-2-yloxy]-acetic acid tert-butyl ester
A suspension of 6-bromo-N-(4-fluoro-phenyl)-nicotinamide (0.112 g, 0.38 mmol), tert-butyl glycolate (0.1 g, 0.76 mmol), and potassium tert-butoxide (0.85 g, 0.76 mmol) in THF (10 mL) was heated in a sealed tube at 70° C. After 6 h the reaction mixture was diluted with ethyl acetate and washed with water bicarbonate and dried over sodium sulfate. Removal of the solvents provided a solid. Purification by reverse phase chromatography gave 0.010 g (8%) of the titled product as a white solid; MS (EI) m/z 345.21 (M−H)−.

reactant | 6-bromo-N-(4-fluoro-phenyl)-nicotinamide | 0.38 mmol, 0.112 g | BrC1=NC=C(C(=O)NC2=CC=C(C=C2)F)C=C1 | C12H8BrFN2O
reactant | tert-butyl glycolate | 0.76 mmol, 0.1 g | C(CO)(=O)OC(C)(C)C | C6H12O3
reactant | potassium tert-butoxide | 0.76 mmol, 0.85 g | CC(C)([O-])C.[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [5-(4-fluoro-phenylcarbamoyl)-pyridin-2-yloxy]-acetic acid tert-butyl ester | 0.010 g, 8% | C(C)(C)(C)OC(COC1=NC=C(C=C1)C(NC1=CC=C(C=C1)F)=O)=O | C18H19FN2O4
